US06930120B2
3-{4-[2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-2-o-tolyloxy-propionic acid
The title compound was prepared using the representative Standard Procedure (E) from 3-(4-Hydroxyphenyl)-2-methyl-2-o-tolyloxy-propionic acid ethyl ester and toluene-4-sulfonic acid 2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethyl ester. 1H NMR (400 MHz, CDCl3): δ 7.14-7.11 (m, 3H), 7.06 (t, 1H, J=7.82 Hz), 6.91 (t, 1H, J=7.82 Hz), 6.79 (d, 1H, J=8.60 Hz), 6.75 (d, 2H, J=8.60 Hz), 4.11 (t, 2H, J=6.26 Hz), 3.24 (d, 1H, J=14.08 Hz), 3.18 (d, 1H, J=14.08 Hz), 2.95 (t, 2H, J=6.26 Hz), 2.90-2.87 (m, 1H), 2.29 (s, 3H), 2.17 (s, 3H), 2.02-1.99 (m, 2H), 1.81-1.78 (m, 2H), 1.71-1.68 (m, 1H), 1.58-1.52 (m, 2H), 1.47 (s, 3H), 1.38-1.21 (m, 5H). MS [ES+] m/z exact mass calcd for C29H36NO5 478.2593, found 478.2611.

reactant | 3-(4-Hydroxyphenyl)-2-methyl-2-o-tolyloxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(OC1=C(C=CC=C1)C)C)=O | C19H22O4
reactant | toluene-4-sulfonic acid 2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethyl ester | C1(CCCCC1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C | C19H25NO4S
product | 3-{4-[2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-2-o-tolyloxy-propionic acid | C1(CCCCC1)C=1OC(=C(N1)CCOC1=CC=C(C=C1)CC(C(=O)O)(OC1=C(C=CC=C1)C)C)C | C29H35NO5
